US09238640B2
Preparation of 2-(4-(2-(Azepan-1-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a suspension of 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (0.22 g, 0.50 mmol) in DMF (2 mL) was added hexamethyleneimine(azepane) (0.22 mL, 2.0 mmol) and the reaction mixture was stirred at room temperature for 17 hours. Saturated aqueous NaHCO3 solution (2 mL) was added and stirred for 2 hours. Water (10 mL) was added and stirred for another 0.5 hours. The solid was filtered, washed with water, and dried under vacuum to give the title compound as a white solid. Yield: 0.22 g (95%). MP 198-199° C. 1H NMR (400 MHz, CD3OD): δ 7.70 (s, 2H), 6.79 (s, 1H), 6.55 (s, 1H), 3.97 (t, J=6.0 Hz, 2H), 3.92 (s, 3H), 3.91 (s, 3H), 2.98 (t, J=6.0 Hz, 2H), 2.82 (t, J=5.2 Hz, 4H), 2.37 (s, 6H), 1.72 (m, 4H), 1.66 (m, 4H). MS (ES+) m/z: 452.27 (M+1). Analysis calculated for C26H33N3O4 (451.56), %: C, 69.16; H, 7.37; N, 9.31. Found, %: C, 68.94; H, 6.90; N, 9.30.

reactant | 2-[4-(2-bromo-ethoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.50 mmol, 0.22 g | BrCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C20H21BrN2O4
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
reactant | Water | 10 mL | O | H2O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-(Azepan-1-yl)ethoxy)-3,5-dimethylphenyl)-5,7-dimethoxyquinazolin-4(3H)-one | N1(CCCCCC1)CCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C26H33N3O4
